US07786132B2
(ii) 5-(2-(Methylthio)pyrimidin-4-yl)thiophene-2-carboxylic acid
A mixture of (E)-methyl 5-(3-(dimethylamino)acryloyl)thiophene-2-carboxylate (1.2 g, 5.02 mmol) and thiourea (0.38 g, 5.02 mmol) in methoxyethanol (20 mL) was treated slowly with 1.0 M potassium tert-butoxide in THF (5 mL, 5.02 mmol) at rt. The resulting mixture refluxed for 6 h. After cooling to rt, iodomethane (1.4 g, 10.04 mmol) was added and the mixture was stirred at rt for 15 h. The solvent was removed under vacuum and water (150 mL) was added to the residue. The mixture was extracted with ethyl acetate (3×100 mL). The combined organic layer was washed with brine (100 mL), dried over anhydrous sodium sulfate and filtered. The solvent was evaporated in vacuo and the solid was treated with methanol (10 mL) and filtered. The solid was suspended in 2.5 M sodium hydroxide (100 mL), stirred at rt for 24 h and extracted with ethyl acetate (50 mL). The aqueous layer was acidified with hydrochloric acid (6 N) and acetic acid to pH 5 and then extracted with ethyl acetate (3×70 mL). The combined organic layer was washed with brine (100 mL), dried over anhydrous sodium sulfate and filtered. The solvent was removed in vacuo and the solid treated with methanol (10 mL) and filtered to give the title compound (0.58 g, 48%). MS (M+H)+ 253.

reactant | (E)-methyl 5-(3-(dimethylamino)acryloyl)thiophene-2-carboxylate | 5.02 mmol, 1.2 g | CN(/C=C/C(=O)C1=CC=C(S1)C(=O)OC)C | C11H13NO3S
reactant | thiourea | 5.02 mmol, 0.38 g | NC(=S)N | CH4N2S
reactant | potassium tert-butoxide | 1.0 M | CC(C)([O-])C.[K+]
reactant | THF | 5.02 mmol, 5 mL | C1CCOC1 | C4H8O
reactant | iodomethane | 10.04 mmol, 1.4 g | IC | CH3I
solvent | methoxyethanol | 20 mL | COC(C)O | C3H8O2
product | 5-(2-(Methylthio)pyrimidin-4-yl)thiophene-2-carboxylic acid | 0.58 g, 48% | CSC1=NC=CC(=N1)C1=CC=C(S1)C(=O)O | C10H8N2O2S2
